US08865715B2
2.4 Reaction of tert-butyl 7-iodo-2-(1-methyl-1H-pyrazol-4-yl)pyrrolo-[2,3-b]pyrazine-5-carboxylate with bis(triphenylphosphine)palladium dichloride, copper(I) iodide, trimethylsilylacetylene and triethylamine in THF analogously to Example 1.3 gives tert-butyl 2(1-methylpyrazol-4-yl)-7-(2-trimethylsilylethynyl)pyrrolo[2,3-b]pyrazine-5-carboxylate.

reactant | tert-butyl 7-iodo-2-(1-methyl-1H-pyrazol-4-yl)pyrrolo-[2,3-b]pyrazine-5-carboxylate | IC1=CN(C2=NC=C(N=C21)C=2C=NN(C2)C)C(=O)OC(C)(C)C | C15H16IN5O2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | [Cu]I
product | tert-butyl 2(1-methylpyrazol-4-yl)-7-(2-trimethylsilylethynyl)pyrrolo[2,3-b]pyrazine-5-carboxylate | CN1N=CC(=C1)C=1N=C2C(=NC1)N(C=C2C#C[Si](C)(C)C)C(=O)OC(C)(C)C | C20H25N5O2Si
